US07544812B2
3-(4-Benzyloxy-phenyl)-2-methyl-acrylic acid ethyl ester:
Triethyl-2-phosphonopropionate (22.2 mL, 103.65 mmol, d=1.111) is added to a 0° C. slurry of sodium hydride (4.15 g, 103.65 μmmol, 60% dispersion on mineral oil) in anhydrousTHF (150 mL), then allowed to warm to ambient temperature over thirty minutes. The slurry is re-cooled to 0° C. and 4-benzyloxybenzaldehyde (20 g, 94.23 mmol) is added in one portion as a solid. The reaction mixture is stirred 18 h at ambient temperature, then diluted with diethyl ether. The organic layer is washed with a saturated solution of aqueous ammonium chloride, water, and brine, then dried over MgSO4 and concentrated in vacuo. The residue is purified by flash chromatography to provide the title compound (24.3 g, 87%). 1H NMR (400 MHz, CDCl3): δ 7.67 (s, 1H), 7.46-7.35 (m, 6H), 7.01 (d, 2H, J=8.1 Hz), 5.10 (s, 2H), 4.28 (q, 2H, J=7.2 Hz), 2.15 (s, 3H), 1.36 (t, 3H, J=7.2 Hz). Rf=0.31 in 20% acetone in hexanes.

reactant | Triethyl-2-phosphonopropionate | 103.65 mmol, 22.2 mL | C(C)C(C(C(=O)[O-])P(=O)(O)O)(CC)CC
reactant | sodium hydride | 4.15 g | [H-].[Na+]
reactant | 4-benzyloxybenzaldehyde | 94.23 mmol, 20 g | C(C1=CC=CC=C1)OC1=CC=C(C=O)C=C1 | C14H12O2
reactant | diethyl ether | C(C)OCC | C4H10O
product | 3-(4-Benzyloxy-phenyl)-2-methyl-acrylic acid ethyl ester | 24.3 g, 87% | C(C)OC(C(=CC1=CC=C(C=C1)OCC1=CC=CC=C1)C)=O | C19H20O3
